US05185251
Step F: Preparation of 3-[2-(benzoxazol-2-yl)ethenyl]-5-ethyl-6-methyl-2-(1H)-pyridinone.
A mixture of 2-[2(R/S)-hydroxy-2-(2-methoxy-5-ethyl-6-methylpyridin-3-yl)ethyl]benzoxazole (72 mg, 0.23 mmol) and pyridine hydrochloride (133 mg, 1.2 mmol), under a nitrogen atmosphere, was placed in a preheated oil bath (165° C.) for 5 minutes. The reaction flask was removed, cooled, and water added to give a solid. This crude product was extracted into chloroform, dried (MgSO4) and the solvent evaporated to yield pure product. Recrystallization from methanol gave analytically pure product, mp 262°-264° C.

reactant | 2-[2(R/S)-hydroxy-2-(2-methoxy-5-ethyl-6-methylpyridin-3-yl)ethyl]benzoxazole | 0.23 mmol, 72 mg | OC(CC=1OC2=C(N1)C=CC=C2)C=2C(=NC(=C(C2)CC)C)OC | C18H20N2O3
reactant | pyridine hydrochloride | 1.2 mmol, 133 mg | Cl.N1=CC=CC=C1
product | 3-[2-(benzoxazol-2-yl)ethenyl]-5-ethyl-6-methyl-2-(1H)-pyridinone | O1C(=NC2=C1C=CC=C2)C=CC=2C(NC(=C(C2)CC)C)=O | C17H16N2O2
